US05783696
A mixture of 190.5 g (1 mole) of 4-toluenesulfonyl chloride in 300 ml of i-propyl ether is added dropwise at 20°-30° C. to one of 252 g (3 mole) of sodium bicarbonate and 139.1 g (1 mole) of 4-aminobenzoic acid in 2.5 l of water. The mixture is stirred vigorously for 2-4 hours, until the sulfonyl chloride has been consumed. The aqueous solution is separated off and then adjusted to pH 1 with concentrated hydrochloric acid, and the precipitate is taken up in propyl acetate. The extract is washed 2× with 2N hydrochloric acid and 1× with water, dried over sodium sulfate and evaporated. 240 g (82.5% of theory) of N-(4-carboxyphenyl)-4-toluenesulfonamide are obtained.

reactant | 4-toluenesulfonyl chloride | 1 mole, 190.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium bicarbonate | 3 mole, 252 g | C([O-])(O)=O.[Na+]
reactant | 4-aminobenzoic acid | 1 mole, 139.1 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | i-propyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 2.5 l | O | H2O
product | N-(4-carboxyphenyl)-4-toluenesulfonamide | 240 g, 82.5% | C(=O)(O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C14H13NO4S
